US08835409B2
Preparation of 4-amino-6-chloro-5-fluoro-3-vinylpicolinic acid (Compound 9)
To a solution of methyl 4-amino-6-chloro-5-fluoro-3-vinylpicolinate (0.150 g, 0.650 mmol) in methanol (3.25 mL) and acetone (3.25 mL) was added sodium hydroxide (0.078 g, 1.951 mmol). The reaction mixture was stirred at room temperature overnight. The mixture was concentrated, diluted with ethyl acetate, and washed with 1N HCl. The organic phase was dried over Na2SO4, filtered, concentrated, and dried under high vacuum to afford the title compound (89 mg, 0.411 mmol, 63.2% yield) as a white solid: mp 164-166° C.; 1H NMR (400 MHz, DMSO) δ 13.34 (s, 1H), 6.67 (s, 2H), 6.67 (dd, J=17.7, 11.5 Hz, 3H), 5.53 (dd, J=10.4, 1.2 Hz, 1H), 5.49 (dd, J=16.7, 1.1 Hz, 1H); 19F NMR (376 MHz, DMSO) δ −142.00 (s); ESIMS m/z 215 ([M−H)−].

reactant | methyl 4-amino-6-chloro-5-fluoro-3-vinylpicolinate | 0.650 mmol, 0.150 g | NC1=C(C(=NC(=C1F)Cl)C(=O)OC)C=C | C9H8ClFN2O2
reactant | sodium hydroxide | 1.951 mmol, 0.078 g | [OH-].[Na+]
solvent | methanol | 3.25 mL | CO | CH4O
solvent | acetone | 3.25 mL | CC(=O)C | C3H6O
product | 4-amino-6-chloro-5-fluoro-3-vinylpicolinic acid | 0.411 mmol, 89 mg, 63.2% yield | NC1=C(C(=NC(=C1F)Cl)C(=O)O)C=C | C8H6ClFN2O2
